US06166006
To a suspension of 4-phenylpiperidine (5.0 g) in acetonitrile (100 ml) was added triethylamine (8.64 ml) and then was added dropwise at 0° C. a solution of p-toluene-sulfonyl chloride (6.50 g) in acetonitrile (30 ml). The mixture was stirred at 0° C. for 2 hours. Under reduced pressure, the solvent was evaporated, and to the residue was water. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the resulting crystals were collected by filtration, which were washed with hexane to give colorless crystals of 1-(4-methylphenylsulfonyl)-4-phenylpiperidine (8.93 g).

reactant | 4-phenylpiperidine | 5.0 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | triethylamine | 8.64 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluene-sulfonyl chloride | 6.50 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-(4-methylphenylsulfonyl)-4-phenylpiperidine | 8.93 g | CC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C1=CC=CC=C1 | C18H21NO2S
